* C:\Users\Edison-MSI\Documents\My Files\UNSAAC\21-1\Laboratorio de Circuitos Electrónicos I\Experiencia 3\rectificador2_ondaCompleta.asc
D1 N002 N001 D1n4004rl
V1 N002 N003 SINE(0 {A} {f})
C1 I 0 {C}
R1 I 0 1k
D2 N003 N001 D1n4004rl
D3 0 N002 D1n4004rl
D4 0 N003 D1n4004rl
L1 N001 I 442m
C2 N001 0 {C}
.model D D
.lib C:\Users\Edison-MSI\Documents\LTspiceXVII\lib\cmp\standard.dio
.inc 1N4004RL.lib
.param A=12*sqrt(2)
.param f=60
;step param C 60u 80u 2u
.meas Vmax MAX V(I)
.meas Vmin MIN V(I)
.meas Vrpp param Vmax - Vmin
.tran 0 500m 0m
.param C=70u
.backanno
.end
